US07951824B2
Step 3: 6-(3,5-Difluoro-phenyl)-2-methyl-pyrimidine-4-carboxylic acid (4-methyl-thiazol-2-yl)-amide
To a solution of 156 mg (1.37 mmol, 1.8 equiv.) of 2-Amino-4-methylthiazole in 4 ml of dry dioxane were added 0.68 μl (1.37 mmol, 1.8 equiv.) of a 2M solution of trimethylaluminium in hexane. The solution was stirred for 1 h at room temperature. Then 200.0 mg (0.76 mmol) of 6-(3,5-Difluoro-phenyl)-2-methyl-pyrimidine-4-carboxylic acid methyl ester were added and the reaction was heated to 90° C. for 4 h. The reaction was quenched by cautious addition of 0.2 ml of water. Then approximately 1 g of anhydrous sodium sulfate were added to bind the water and the mixture was stirred vigorously for 5 min. The mixture was diluted by addition of 10 ml of methylenene chloride and filtered over Speedex filter aid which was washed with methylene chloride. The filtrate was concentrated in vaccuo and the residue was purified by flash chromatography (heptane/ethyl acetate 4:1) and recristallised from diisopropyl ether to yield the title compound (152.0 mg, 58%) as a white solid, MS (ISP): m/e=347.1 (M+H)+.

reactant | 2-Amino-4-methylthiazole | 1.37 mmol, 156 mg, 1.8 equiv. | NC=1SC=C(N1)C | C4H6N2S
reactant | trimethylaluminium | C[Al](C)C
reactant | 6-(3,5-Difluoro-phenyl)-2-methyl-pyrimidine-4-carboxylic acid methyl ester | 0.76 mmol, 200.0 mg | COC(=O)C1=NC(=NC(=C1)C1=CC(=CC(=C1)F)F)C | C13H10F2N2O2
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 6-(3,5-Difluoro-phenyl)-2-methyl-pyrimidine-4-carboxylic acid (4-methyl-thiazol-2-yl)-amide | 152.0 mg, 58% | CC=1N=C(SC1)NC(=O)C1=NC(=NC(=C1)C1=CC(=CC(=C1)F)F)C | C16H12F2N4OS
